US04443630
The so far single industrially feasible synthesis is described by BIOS Final Report 986/2, No. 167, pages 297-306, and involves acylating 2-aminotoluene with benzenesulfonyl chloride to give N-(2-methylphenyl)-benzenesulfonamide, nitrating the latter in chlorobenzene, and, finally, splitting off the protective group by hydrolysis and isolating 2-amino-5-nitrotoluene. This synthesis gives a yield of about 75% of theory. In addition to this unsatisfactory yield, the numerous process stages and the associated consumption of chemicals, this process harbors further grave disadvantages which render its industrial application problematical from a processing and an ecological point of veiw

reactant | 2-aminotoluene | NC1=C(C=CC=C1)C | C7H9N
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-(2-methylphenyl)-benzenesulfonamide | CC1=C(C=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C13H13NO2S
